US07741479B2
LiOH monohydrate (0.122 g, 2.90 mmol) was dissolved in 1 mL water and added to methyl 5-tert-butyl-3-nitrothiophene-2-carboxylate (0.235 g, 0.966 mmol) in 3 ml of a 3:1 mixture of THF:MeOH. The resulting mixture was heated at 75° C. for 5 hours. The reaction was cooled down to room temperature, acidified with 1N HCl, extracted with ethyl acetate, and the crude product was recrystallized from dichloromethane:hexane to afford 0.214 g of 5-tert-butyl-3-nitrothiophene-2-carboxylic acid as a yellow solid.

reactant | methyl 5-tert-butyl-3-nitrothiophene-2-carboxylate | 0.966 mmol, 0.235 g | C(C)(C)(C)C1=CC(=C(S1)C(=O)OC)[N+](=O)[O-] | C10H13NO4S
reactant | THF | C1CCOC1 | C4H8O
reactant | MeOH | CO | CH4O
reactant | HCl | 1N | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 5-tert-butyl-3-nitrothiophene-2-carboxylic acid | 0.214 g | C(C)(C)(C)C1=CC(=C(S1)C(=O)O)[N+](=O)[O-] | C9H11NO4S
